US04634710
A solution of 690 mg of 2-chloromethyl-3-methyl-4-methoxypyridine and 400 mg of 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one in 40 ml of absolute acetone was treated with 1.9 g of finely ground potassium carbonate, whereupon the mixture was stirred at room temperature under argon for 18 hours. After concentrating the mixture in vacuo the residue was chromatographed on silica gel with methylene chloride/ethyl acetate (10:1) as the elution agent, the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. By recrystallization from ethyl acetate/ether there was obtained 5,7-dihydro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one of melting point 218°-220°.

reactant | 2-chloromethyl-3-methyl-4-methoxypyridine | 690 mg | ClCC1=NC=CC(=C1C)OC | C8H10ClNO
reactant | 5,7-dihydro-2-mercapto-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 400 mg | SC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C | C14H16N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5,7-dihydro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | COC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C)C | C22H25N3O2S
